US08193202B2
A. Preparation of tert-butyl 4-methyl-4-(3-(oxazol-5-yl)phenylcarbamoyl)-piperidine-1-carboxylate.
To a solution of 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid (61.3 mg, 0.252 mmol) and pyridine (79.7 mg, 0.08 mL, 1.01 mmol) in 1,2-dichloroethane (2 mL) at 0° C. was added DMF (1-2 drops) followed by oxalyl chloride (31.9 mg, 0.022 mL, 0.252 mmol). The reaction was stirred for 0.5 hour, and 3-(oxazol-5-yl)aniline (40.4 mg, 0.252 mmol) was added. The reaction was allowed to stir for another 1.5 hours. The mixture was diluted with ethyl acetate (10 mL), and the organics were washed with 0.1 N HCl (2×10 mL), brine (4 mL), dried over MgSO4, filtered, and concentrated to give the title compound, which was used in the next step without further purification. MS (ES+) [M+H]+=386.2.

reactant | 1-(tert-butoxycarbonyl)-4-methylpiperidine-4-carboxylic acid | 0.252 mmol, 61.3 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C | C12H21NO4
reactant | pyridine | 1.01 mmol, 0.08 mL, 79.7 mg | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 0.252 mmol, 0.022 mL, 31.9 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(oxazol-5-yl)aniline | 0.252 mmol, 40.4 mg | O1C=NC=C1C=1C=C(N)C=CC1 | C9H8N2O
solvent | 1,2-dichloroethane | 2 mL | ClCCCl | C2H4Cl2
catalyst | DMF | 1-2 drops | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-methyl-4-(3-(oxazol-5-yl)phenylcarbamoyl)-piperidine-1-carboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)C(NC1=CC(=CC=C1)C1=CN=CO1)=O | C21H27N3O4
